US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (0.3 g), 2-bromo-4'-dimethylaminoacetophenone (0.2 g) and potassium carbonate (0.16 g) in N,N-dimethylformamide (5 ml) was stirred at room temperature for 2 hours. The reaction mixture was poured into water (20 ml) and extracted with ethyl acetate. The organic layer was washed with water and dried over magnesium sulfate. After evaporation of the solvent, the resulting residue was purified by column chromatography on silica gel using toluene-ethyl acetate (2:1) as an eluent. Fractions containing objective compound were collected and evaporated under reduced pressure to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(4-dimethylaminophenylcarbonylmethyl)-2-(1H-indol-3-ylmethyl)piperazine (0.26 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 0.3 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | 2-bromo-4'-dimethylaminoacetophenone | 0.2 g | BrCC(=O)C1=CC=C(C=C1)N(C)C | C10H12BrNO
reactant | potassium carbonate | 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(4-dimethylaminophenylcarbonylmethyl)-2-(1H-indol-3-ylmethyl)piperazine | 0.26 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(=O)C2=CC=C(C=C2)N(C)C)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C32H30F6N4O2
